US07776869B2
A resealable tube was charged with 2-bromo-5-(trifluoromethyl)aniline (1.00 g, 4.16 mmol), 1-dimethylamino-2-propyne (0.520 g, 6.20 mmol), PdCl2(PPh3)2 (0.15 g, 0.21 mmol), copper iodide (0.80 mg, 0.42 mmol), diisopropylethylamine (1.0 mL) and acetonitrile (3.0 mL). The system was purged with argon, the tube sealed and the mixture stirred at room temperature for 20 h. The reaction mixture was filtered through celite and concentrated. The residue was purified via column chromatography on silica gel (gradient elution with 0-10% methanol-dichloromethane) to afford 2-(3-dimethylamino-1-propynyl)-5-(trifluoromethyl)aniline as a brown oil. MS m/z=243 [M+H]+. Calc'd for C12H13F3N2: 242.

reactant | 2-bromo-5-(trifluoromethyl)aniline | 4.16 mmol, 1.00 g | BrC1=C(N)C=C(C=C1)C(F)(F)F | C7H5BrF3N
reactant | 1-dimethylamino-2-propyne | 6.20 mmol, 0.520 g | CN(CC#C)C | C5H9N
reactant | diisopropylethylamine | 1.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | PdCl2(PPh3)2 | 0.21 mmol, 0.15 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.42 mmol, 0.80 mg | [Cu](I)I
solvent | acetonitrile | 3.0 mL | C(C)#N | C2H3N
product | 2-(3-dimethylamino-1-propynyl)-5-(trifluoromethyl)aniline | CN(CC#CC1=C(N)C=C(C=C1)C(F)(F)F)C | C12H13F3N2
